US07507740B2
(ii) Production of methyl 3-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoate
To a solution of methyl 3-[(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]benzoate (670 mg) in 1-methyl-2-pyrrolidone (3.0 mL) was added 3-chloro-4-[(3-fluorobenzyl)oxy]aniline (549 mg), and the reaction mixture was stirred at 120° C. for 1.5 hrs. The reaction mixture was allowed to cool to room temperature, diluted with 5% aqueous sodium hydrogen carbonate solution (50 mL), and extracted with ethyl acetate (50 mL×3). The organic layer washed with saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was subjected to silica gel column chromatography (basic silica gel, eluent:hexane/ethyl acetate=9/1→0/10). The object fraction was concentrated under reduced pressure and dried to give the title compound (1010 mg) as a yellow oil.

reactant | methyl 3-[(4-chloro-5H-pyrrolo[3,2-d]pyrimidin-5-yl)methyl]benzoate | 670 mg | ClC=1C2=C(N=CN1)C=CN2CC=2C=C(C(=O)OC)C=CC2 | C15H12ClN3O2
reactant | 3-chloro-4-[(3-fluorobenzyl)oxy]aniline | 549 mg | ClC=1C=C(N)C=CC1OCC1=CC(=CC=C1)F | C13H11ClFNO
solvent | 1-methyl-2-pyrrolidone | 3.0 mL | CN1C(CCC1)=O | C5H9NO
solvent | sodium hydrogen carbonate | 50 mL | C(O)([O-])=O.[Na+]
product | methyl 3-{[4-({3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}amino)-5H-pyrrolo[3,2-d]pyrimidin-5-yl]methyl}benzoate | 1010 mg | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)NC=1C2=C(N=CN1)C=CN2CC=2C=C(C(=O)OC)C=CC2 | C28H22ClFN4O3
